US06399629B1
(B) 4-Phenylbenzyltriphenylphosphonium Bromide
Triphenylphosphine (1.34 g) was added to a stirred solution of 4-phenylbenzyl bromide (1.26 g) in xylene (20 mL). The mixture was refluxed for 19 hr to a give white solid. The solid was washed with toluene and hexane to afford the titled compound (2.35 g).

reactant | Triphenylphosphine | 1.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-phenylbenzyl bromide | 1.26 g | C1(=CC=CC=C1)C1=CC=C(CBr)C=C1 | C13H11Br
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Phenylbenzyltriphenylphosphonium Bromide | 2.35 g | [Br-].C1(=CC=CC=C1)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C31H26P.BrH/c1-5-13-27(14-6-1)28-23-21-26(22-24-28)25-32(29-15-7-2-8-16-29,30-17-9-3-10-18-30)31-19-11-4-12-20-31;/h1-24H,25H2;1H/q+1;/p-1
